US04569690
3-(5,6-Dihydro-1,4,2-oxathiazine-3-yl)benzoic acid (15 g, 0.07 mol) was suspended in methylene chloride (200 ml). Thionyl chloride (10 ml) was added and the reaction was refluxed until homogenous and all gassing had ceased. The solvent was removed, the remaining oil was taken up in methylene chloride and treated portionwise with aniline (12.5 g, 0.12 mol). An exotherm was observed. After several hours, water was added, the organic material separated, washed successively with water, aqueous bicarbonate, dilute hydrochloric acid, water and then dried over anhydrous magnesium sulphate. Evaporation of the solvent left a solid which was recrystallised from ethanol to give crystals of 3-(5,6-dihydro-1,4,2-oxathiazin-3-yl)-N-phenylbenzamide, mp 149°-150° C. (Found: C,64.65; H,4.92; N,9.65. C16H14N2O2S requires C,64.42; H,4.73; N,9.39).

reactant | 3-(5,6-Dihydro-1,4,2-oxathiazine-3-yl)benzoic acid | 0.07 mol, 15 g | O1N=C(SCC1)C=1C=C(C(=O)O)C=CC1 | C10H9NO3S
reactant | Thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | aniline | 0.12 mol, 12.5 g | NC1=CC=CC=C1 | C6H7N
reactant | water | O | H2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 3-(5,6-dihydro-1,4,2-oxathiazin-3-yl)-N-phenylbenzamide | O1N=C(SCC1)C=1C=C(C(=O)NC2=CC=CC=C2)C=CC1 | C16H14N2O2S
